US07915281B2
N-Chlorosuccinimide (8.50 g, 63.7 mmol) was added to a solution of (1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethanal oxime (13.0 g, 63.7 mmol) in DMF (100 mL), and the solution was heated at 50° C. gently for two hours and allowed to cool to room temperature. The solution was diluted with ethyl acetate and washed three times with water and once with brine, dried over magnesium sulfate, filtered, and concentrated to provide 15.0 g of 2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-N-hydroxyethanimidoyl chloride as a pale yellow solid.

reactant | N-Chlorosuccinimide | 63.7 mmol, 8.50 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | (1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethanal oxime | 63.7 mmol, 13.0 g | O=C1N(C(C2=CC=CC=C12)=O)CC=NO | C10H8N2O3
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-N-hydroxyethanimidoyl chloride | 15.0 g | O=C1N(C(C2=CC=CC=C12)=O)CC(=NO)Cl | C10H7ClN2O3
